US07910611B2
In the same manner as that of the method described in to WO2003/051854, from 4-[3-(2,2-dimethylpropionyl)-5-(2,2-dimethylpropionylamino)-2-phenyl-2,3-dihydro-1,3,4-thiadiazol-2-yl]butanoic acid methyl ester (11.2 g, 25.9 mmol) obtained according to the method described in WO2003/051854 and sodium borohydride (2.94 g, 77.6 mmol), 4-[5-amino-3-(2,2-dimethylpropionyl)-2-phenyl-2,3-dihydro-1,3,4-thiadiazol-2-yl]butanoic acid methyl ester (1.54 g, 17%) was obtained.

reactant | 4-[3-(2,2-dimethylpropionyl)-5-(2,2-dimethylpropionylamino)-2-phenyl-2,3-dihydro-1,3,4-thiadiazol-2-yl]butanoic acid methyl ester | 25.9 mmol, 11.2 g | COC(CCCC1(SC(=NN1C(C(C)(C)C)=O)NC(C(C)(C)C)=O)C1=CC=CC=C1)=O | C23H33N3O4S
reactant | sodium borohydride | 77.6 mmol, 2.94 g | [BH4-].[Na+]
product | 4-[5-amino-3-(2,2-dimethylpropionyl)-2-phenyl-2,3-dihydro-1,3,4-thiadiazol-2-yl]butanoic acid methyl ester | 1.54 g, 17% | COC(CCCC1(SC(=NN1C(C(C)(C)C)=O)N)C1=CC=CC=C1)=O | C18H25N3O3S
